US08440689B2
C. 2-(Cyclohexylamino)-4-(m-tolylamino)-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidin-5-one
A mixture of methyl 4-cyano-2-(cyclohexylamino)-6-(m-tolylamino)pyrimidine-5-carboxylate (112.6 mg, 0.308 mmol) and palladium on carbon (26.4 mg, 0.248 mmol) in MeOH (2 mL) and HCl (1N, 2 mL) was stirred at RT for 4 h under a hydrogen atmosphere. Saturated aq NaHCO3 was added and the mixture was stirred for 12 h. The mixture was filtered and the filtrate was concentrated under reduced pressure. The residue was extracted with EtOAc. The organic layers were washed with aq NaHCO3, water, and brine, were dried over anhydrous Na2SO4, and then filtered through SiO2. The filtrate was concentrated under reduced pressure and the residue was purified by column chromatography (SiO2, EtOAc) to give a white solid (72.2 mg, 69%). The white solid was recrystallized from EtOH gave the title compound (35.2 mg). 1H NMR (500 MHz, DMSO-d6) δ ppm 1.14-1.17 (m, 1H), 1.24-1.34 (m, 4H), 1.62-1.63 (m, 1H), 1.73-1.78 (m, 2H), 1.89-1.97 (m, 2H), 2.33 (s, 3H), 3.74-3.83 (m, 1H), 4.12-4.17 (m, 2H), 6.86-6.88 (m, 1H), 7.20-7.23 (m, 1H), 7.42-7.52 (m, 2H), 7.76 (s, 1H), 8.00-8.05 (m, 1H), 8.53-8.57 (m, 1H). [M+H] calc'd for C19H24N5O, 338. found, 338.

reactant | methyl 4-cyano-2-(cyclohexylamino)-6-(m-tolylamino)pyrimidine-5-carboxylate | 0.308 mmol, 112.6 mg | C(#N)C1=NC(=NC(=C1C(=O)OC)NC=1C=C(C=CC1)C)NC1CCCCC1 | C20H23N5O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | palladium on carbon | 0.248 mmol, 26.4 mg | [Pd] | Pd
solvent | MeOH | 2 mL | CO | CH4O
solvent | HCl | 1N, 2 mL | Cl | ClH
product | 2-(Cyclohexylamino)-4-(m-tolylamino)-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidin-5-one | 72.2 mg, 69% | C1(CCCCC1)NC=1N=C(C2=C(N1)CNC2=O)NC=2C=C(C=CC2)C | C19H23N5O
